US09371320B2
C) 4-methoxy-1-(4-methoxybenzyl)-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate
To a solution of 4-methoxy-1-(4-methoxybenzyl)-1,2-dihydro-3H-pyrazolo[4,3-c]pyridin-3-one (393 mg) and pyridine (0.444 mL) in acetonitrile (25 mL) was added trifluoromethanesulfonic anhydride (0.465 mL), and the mixture was stirred at 0° C. for 1 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (472 mg).

reactant | 4-methoxy-1-(4-methoxybenzyl)-1,2-dihydro-3H-pyrazolo[4,3-c]pyridin-3-one | 393 mg | COC1=NC=CC2=C1C(NN2CC2=CC=C(C=C2)OC)=O | C15H15N3O3
reactant | pyridine | 0.444 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.465 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 4-methoxy-1-(4-methoxybenzyl)-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate | 472 mg | FC(S(=O)(=O)OC1=NN(C2=C1C(=NC=C2)OC)CC2=CC=C(C=C2)OC)(F)F | C16H14F3N3O5S
